US07041824B2
Stage 1: N-propyl-2-chloro-1H-purin-6-amine
189 mg of 2,6-dichloropurine, 4 ml of butanol and 0.09 ml (1.1 mol) of propylamine are mixed at room temperature and the medium is heated at a temperature of 75° C. for 2 hours 30 minutes.

reactant | 2,6-dichloropurine | 189 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | propylamine | 1.1 mol, 0.09 ml | C(CC)N | C3H9N
solvent | butanol | 4 ml | C(CCC)O | C4H10O
product | N-propyl-2-chloro-1H-purin-6-amine | C(CC)NC1=C2N=CN=C2N=C(N1)Cl | C8H10ClN5
